US05102895
(2) Synthesis of 2,3-epoxy-4-hydroxy-3-methylbutyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate
4.1 g (0.0073 mol) of 4-hydroxy-3-methyl-2-butenyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate was dissolved in 80 ml of dichloromethane. To the obtained solution was added 2.6 g (0.012 mol) of m-chloroperbenzoic acid (purity: 80%) in small portions under ice-cooling and stirring. After the completion of the addition, the obtained mixture was further stirred at the same temperature for 1 hour. After filtering off the precipitate thus formed, the filtrate was poured into an aqueous solution of sodium hydrosulfite and extracted with dichloromethane. The extract was washed with water and dried. After distilling off the solvent, the obtained oily residue was purified by column chromatography (silica gel, hexane/ethyl acetate). Thus 4.0 g of the title compound was obtained as a colorless viscous liquid.

reactant | 4-hydroxy-3-methyl-2-butenyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate | 0.0073 mol, 4.1 g | C(OCC=C(CO)C)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C35H58O5
reactant | m-chloroperbenzoic acid | 0.012 mol, 2.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 2,3-epoxy-4-hydroxy-3-methylbutyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate | 4.0 g | C(OCC1C(CO)(C)O1)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C35H58O6
